2199-06-27 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Repeat Hct was 29 from 44
 giving 2 units PRBC
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   patient believe
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2199-6-26**] 10:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-6-27**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 73 (64 - 74) bpm
   BP: 107/50(64) {93/48(58) - 193/152(156)} mmHg
   RR: 20 (16 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    114 mL
                                                                    746 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                    114 mL
                                                                    746 mL
   Total out:
                                                                    160 mL
                                                                    330 mL
   Urine:
                                                                    160 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -46 mL
                                                                    416 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.46/37/70/26/2
   Physical Examination
   General: pleasant, in pain
   HEENT: NC/AT, anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: CTAB anteriorly, no wheezes, rales, ronchi
   CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: +BS NT/ND, soft
   Ext: no c/c/e, pulses: +dopplers at PT and DP pulses bilaterally; R
   groin hematoma about 2 in. wider from darcation post-procedure. Firm
   and tender to touch. Main area of firm hematoma at R thigh near
   softball sized.
   Neuro: AOx3, sensation intact at LE and [**5-21**] motor at LE
   Labs / Radiology
   159 K/uL
   9.3 g/dL
   203 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.5 mEq/L
   36 mg/dL
   104 mEq/L
   143 mEq/L
   29
   7.2 K/uL
        [image002.jpg]
                             [**2199-6-27**]  01:51 AM
                             [**2199-6-27**]  06:24 AM
   WBC
   7.2
   Hct
   27.9
   29
   Plt
   159
   Cr
   1.4
   TCO2
   27
   Glucose
   203
   Other labs: PT / PTT / INR:18.4/27.0/1.7, Ca++:8.3 mg/dL, Mg++:1.4
   mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   76yo F w/ hx of CAD, s/p prior MI and PCI, PVD, s/p CEA and left leg
   PTA and paroxysmal Afib dating back to [**2191**] presenting today s/p PVI
   for afib c/b R inguinal and thigh hematoma
   # Hematoma, R groin/thigh- complication from PVI procedure. Likely
   caused from elevated INR and required 5F arterial line. CT shows
   hematoma is contained within the groin. Exam also stable. Most recent
   INR incr even after 2u FFP to 4.0. Gave 3 more units FFP, INR now 1.7.
   - checking Hct and coags q6h
   - giving 2 units
   - will not transfuse currently given Hct 44
   - f/u final CT read
   - restart ASA overnight
   - restart home HCTZ 25 and Diovan 80 overnight
   - f/u Vascular recs, if continues to grow or BP unstable, vascular
   [**Pager number 6567**]
   .
   # Coronaries- known CAD w/ multiple MI and prior hx of angioplasty and
   stenting. Currently pt denies CP, and EKG was unchanged prior/post
   procedure. Do not suspect ACS or demand.
   - continue Metop 75mg [**Hospital1 **]
   - ASA 162 in AM
   - diovan in AM as above
   - check lipids
   .
   # Pump- LVEF 60%. no significant valve disease. Euvolemic.
   .
   # Rhythm- h/o atrial fibrillation, s/p DC cardioversions, the last in
   [**4-25**]. Now in NSR s/p PVI. Continue to moniter on tele
   - will continue BB at 75 [**Hospital1 **] for CAD for now
   - f/u EP recs
   .
   # HTN- hypertensive urgency likely from pain and anxiety. Pt's SBP
   improved from 200s to 160 with 1 of morphine and 1 of ativan
   - restart anti-HTNsives in AM
   .
   # Anxiety- exacerbated in setting of current medical concern
   - will try 0.5-1mg ativan for current anxiety.
   .
   # Insomnia- holding home xanax with ativan in use
   .
   # PVD- s/p left leg stenting with subsequent thrombotic occlusion
   requiring ? thrombectomy/PTA - current pulses in feet doplerable
   - continue to moniter
   # CRI ?baseline 1.3- likely near baseline will continue to moniter
   .
   # Neuropathy of b/l feet- stable, sensation is unchanged currently.
   # Hx of GIB/diverticulosis- currently no reason to suspect GIB, will
   moniter Hcts and guiac stools since supratherapeutic.
   .
   FEN: No IVF, replete electrolytes, cardiac diet
   Prophylaxis: holding SQH, ppi
   Access: PIVs
   Code: presumed FULL
   Dispo: CCU overnight
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-6-26**] 10:35 PM
   18 Gauge - [**2199-6-26**] 10:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-06-28 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2199-6-27**] 01:15 PM
   right groin
   - R Fem US: unclear if there is still active bleeding. Rec is for
   repeat US. Will plan to take to OR around 2pm today for evacuation.
   - EP recs: Hold all anti-coag x 24 hrs, Resume coumadin tomorrow PM,
   should get OOB to chair and have PT see her in am
   -Post-transfusion Hct 34.9 up from 29
   - Got 20 PO lasix
   - Hematoma appeared more tense: vasc surgery came to evaluated and did
   not see e/o threatened skin. they suggested tracking leg circumference.
   - Hct @ 9:46pm: 29. Given drop patient transfused another 1 unit PRBCs.
   Spoke with vasc [**Doctor First Name **] who rec continuing to check serial hcts.
   - Became very agitated and required a total of 11mg Haldol and 2.5mg
   Zyprexa to control agitation
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   patient believe
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2199-6-27**] 08:54 PM
   Haloperidol (Haldol) - [**2199-6-28**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-6-28**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 65 (65 - 98) bpm
   BP: 91/58(66) {80/26(29) - 134/105(113)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,944 mL
                                                                    227 mL
   PO:
                                                                    440 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                  1,454 mL
                                                                    227 mL
   Total out:
                                                                    840 mL
                                                                    335 mL
   Urine:
                                                                    840 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,104 mL
                                                                   -108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General: pleasant, in pain
   HEENT: NC/AT, anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: CTAB anteriorly, no wheezes, rales, ronchi
   CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: +BS NT/ND, soft
   Ext: no c/c/e, pulses: +dopplers at PT and DP pulses bilaterally; R
   groin hematoma about 4 in. wider from darcation post-procedure. Firm
   and tender to touch. Main area of firm hematoma at R thigh near
   football size.
   Neuro: AOx3, sensation intact at LE and [**5-21**] motor at LE
   Labs / Radiology
   142 K/uL
   10.1 g/dL
   166 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   37 mg/dL
   102 mEq/L
   142 mEq/L
   29.6 %
   10.4 K/uL
        [image002.jpg]
                             [**2199-6-27**]  01:51 AM
                             [**2199-6-27**]  06:24 AM
                             [**2199-6-27**]  11:05 AM
                             [**2199-6-27**]  04:30 PM
                             [**2199-6-27**]  09:30 PM
                             [**2199-6-27**]  09:46 PM
   WBC
   7.2
   10.4
   Hct
   27.9
   29
   29.2
   34.9
   13.9
   29.6
   Plt
   159
   142
   Cr
   1.4
   1.4
   TCO2
   27
   Glucose
   203
   166
   Other labs: PT / PTT / INR:16.5/24.9/1.5, Ca++:8.1 mg/dL, Mg++:1.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 RETROPERITONEAL BLEED (RP BLEED) , PROCEDURE-RELATED
 ANXIETY
 ATRIAL FIBRILLATION (AFIB)
   76yo F w/ hx of CAD, s/p prior MI and PCI, PVD, s/p CEA and left leg
   PTA and paroxysmal Afib dating back to [**2191**] presenting today s/p PVI
   for afib c/b R inguinal and thigh hematoma
   # Hematoma, R groin/thigh- complication from PVI procedure. Likely
   caused from elevated INR and required 5F arterial line. CT shows
   hematoma is contained within the groin. U/S showed ? fistula. Exam
   worsened with larger hematoma and tense. Most recent INR 1.5 after 5U
   FFP. Pt received 3U pRBC total
   - NPO, plan for OR today for evacuation
   - appreciate vascular recs
   - checking Hct and coags q6h
   - f/u final CT read
   - cont to hold home HCTZ 25 and Diovan 80 given hypotension
   - will need to get additional PIV or access. Currently only 1 PIV
   .
   # Coronaries- known CAD w/ multiple MI and prior hx of angioplasty and
   stenting. Currently pt denies CP, and EKG was unchanged prior/post
   procedure. Do not suspect ACS or demand.
   - hold Metop given BP
   - ASA 162 in AM
   - cont to hold diovan
   .
   # Pump- LVEF 60%. no significant valve disease. Euvolemic.
   - will monitor volume status given blood products, lasix prn
   .
   # Rhythm- h/o atrial fibrillation, s/p DC cardioversions, the last in
   [**4-25**]. Now in NSR s/p PVI. Continue to moniter on tele
   - will hold BB for now given hypotension, can give IV for rate control
   if needed
   - f/u EP recs
   .
   # HTN- BP have remained low.
   - hold anti-HTNsives for now, restart if stable.
   # Delirium/ [**Name (NI) 6603**] Pt confused and delirius overnight. Requiring
   total of 11mg haldol and zyprexa. Also required restraints.  Pt still
   disoriented this AM.
   - check ECG to check QT
   - haldol 5mg IV prn and/or zyprexa
   - remove restraints as causing more agitation
   - consider 1:1 sitter
   .
   # PVD- s/p left leg stenting with subsequent thrombotic occlusion
   requiring ? thrombectomy/PTA - current pulses in feet doplerable
   - continue to moniter
   # CRI ?baseline 1.3- likely near baseline will continue to monitor Cr
   1.4. yesterday. Awaiting AM labs
   -          cont to trend Cr
   - avoid nephrotoxins and renally dose meds
   .
   # Neuropathy of b/l feet- stable, sensation is unchanged currently.
   # Hx of GIB/diverticulosis- currently no reason to suspect GIB, will
   moniter Hcts and guiac stools
   .
   FEN: No IVF, replete electrolytes, NPO for procedure
   Prophylaxis: holding SQH, ppi
   Access: PIV (will need additional access)
   Code: presumed FULL
   Dispo: CCU

2199-06-28 09:47:00 Physician Resident Progress Note
Chief Complaint: minimal pain in the right groin
   24 Hour Events:
 ULTRASOUND - At [**2199-6-27**] 01:15 PM
   right groin
   IMPRESSION: Large hematoma in the right groin, with suggestion of a
   small
   vessel AV fistula, involving the greater saphenous vein and a small
   branch
   artery in the groin, without involvement of the common femoral artery.
   Reveived 1 unit of blood last night for HCT of 29 from 35.
   Yesterday evening, the hematoma seemed to have enlarged in the central
   area
   History obtained from Patient
   Allergies:
   History obtained from PatientPlavix (Oral) (Clopidogrel Bisulfate)
   patient believe
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2199-6-27**] 08:54 PM
   Haloperidol (Haldol) - [**2199-6-28**] 04:15 AM
   Morphine Sulfate - [**2199-6-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-6-28**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 67 (65 - 98) bpm
   BP: 85/45(56) {80/26(29) - 134/105(113)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,944 mL
                                                                    227 mL
   PO:
                                                                    440 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                  1,454 mL
                                                                    227 mL
   Total out:
                                                                    840 mL
                                                                    440 mL
   Urine:
                                                                    840 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,104 mL
                                                                   -213 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent, R groin with hematoma with
   increased tenseness in a smaller area.  Tracking of the hematoma
   through thigh.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   10.1 g/dL
   166 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   37 mg/dL
   102 mEq/L
   142 mEq/L
   29.6 %
   10.4 K/uL
        [image002.jpg]
                             [**2199-6-27**]  01:51 AM
                             [**2199-6-27**]  06:24 AM
                             [**2199-6-27**]  11:05 AM
                             [**2199-6-27**]  04:30 PM
                             [**2199-6-27**]  09:30 PM
                             [**2199-6-27**]  09:46 PM
   WBC
   7.2
   10.4
   Hct
   27.9
   29
   29.2
   34.9
   13.9
   29.6
   Plt
   159
   142
   Cr
   1.4
   1.4
   TCO2
   27
   Glucose
   203
   166
   Other labs: PT / PTT / INR:16.5/24.9/1.5, Ca++:8.1 mg/dL, Mg++:1.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED
 Thigh BLEED, PROCEDURE-RELATED - hematoma in the setting of the
   arterial line needed for hemodynamic monitoring during the procedure vs
   continued venous bleeding.  Bleeding resumed even after FFP with more
   normalized INR and no anticoagulation.  Appreciate vascular surgery
   input which is planning for hematoma evacuation later today.
 ATRIAL FIBRILLATION (AFIB) - s/p PVI.  Will resume coumadin when safe
   per vascular surgery.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-6-26**] 10:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Patient seen, discussed, and examined with Dr. [**Last Name (STitle) 6607**]; agree with
   assessment and plan for vascular surgery to evacuate large R groin
   hematoma and evaluate fistula for possible repair.  She remains
   hemodynamically stable in NSR.
   ------ Protected Section Addendum Entered By:[**Name (NI) 851**] [**Name8 (MD) **], MD
   on:[**2199-6-28**] 09:53 ------

2199-06-29 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2199-6-28**] 08:59 AM
 ULTRASOUND - At [**2199-6-28**] 09:30 AM
 OR SENT - At [**2199-6-28**] 02:15 PM
 ARTERIAL LINE - START [**2199-6-28**] 03:00 PM
   started by anesthesia MD in OR
 INVASIVE VENTILATION - START [**2199-6-28**] 03:55 PM
 OR RECEIVED - At [**2199-6-28**] 04:15 PM
 EKG - At [**2199-6-28**] 05:15 PM
   [**2199-6-28**]:
   - repeat R fem U/S: prelime AV fistuala
   - vascular to take pt to OR for evacuation
   - Am Hct stable
   - Urine lytes...
   - OR: intially on MAC, but due to blood loss and hypotension pt was
   intubated and started on neo. 1L-750cc blood loss. Large hematoma
   evacuated. Pseudoaneurysm repaired. Received 1U pRBC and 1500cc IVF.
   - Hct 23, transfusing 2U pRBC
   - Pt went into a-fib w/ RVR --> pushed lopressor 5mg x3
   ( [**2199-6-27**]:
   - R Fem US: unclear if there is still active bleeding. Rec is for
   repeat US tomorrow.
   - EP recs: Hold all anti-coag x 24 hrs, Resume coumadin tomorrow PM,
   should get OOB to chair and have PT see her in am
   -Post-transfusion Hct 34.9 up from 29
   - Got 20 PO lasix
   - Hematoma appeared more tense: vasc surgery came to evaluated and did
   not see e/o threatened skin. they suggested tracking leg circumference.
   - Hct @ 9:46pm: 29. Given drop patient transfused another 1 unit PRBCs.
   Spoke with vasc [**Doctor First Name **] who rec continuing to check serial hcts.
   - Became very agitated and required a total of 11mg Haldol and 2.5mg
   Zyprexa to control agitation)
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   patient believe
   Last dose of Antibiotics:
   Vancomycin - [**2199-6-28**] 04:00 PM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2199-6-28**] 06:00 PM
   Morphine Sulfate - [**2199-6-28**] 06:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-6-29**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 126 (64 - 146) bpm
   BP: 130/86(96) {83/26(42) - 130/86(96)} mmHg
   RR: 14 (10 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
          Total In:
                                                                  2,685 mL
                                                                    663 mL
   PO:
          TF:
   IVF:
                                                                  1,328 mL
                                                                    355 mL
   Blood products:
                                                                  1,357 mL
                                                                    278 mL
   Total out:
                                                                  3,045 mL
                                                                    515 mL
   Urine:
                                                                  1,150 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
                                                                    110 mL
                                                                    130 mL
   Balance:
                                                                   -360 mL
                                                                    148 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 395 (395 - 395) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 18 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.44/43/182/26/5
   Ve: 8 L/min
   PaO2 / FiO2: 455
   Physical Examination
   General: pleasant, in pain
   HEENT: NC/AT, anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: CTAB anteriorly, no wheezes, rales, ronchi
   CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: +BS NT/ND, soft
   Ext: no c/c/e, pulses: +dopplers at PT and DP pulses bilaterally; R
   groin hematoma about 4 in. wider from darcation post-procedure. Firm
   and tender to touch. Main area of firm hematoma at R thigh near
   football size.
   Neuro: AOx3, sensation intact at LE and [**5-21**] motor at LE
   Labs / Radiology
   107 K/uL
   11.5 g/dL
   114 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.8 mEq/L
   30 mg/dL
   107 mEq/L
   141 mEq/L
   32.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2199-6-27**]  04:30 PM
                             [**2199-6-27**]  09:30 PM
                             [**2199-6-27**]  09:46 PM
                             [**2199-6-28**]  09:10 AM
                             [**2199-6-28**]  04:20 PM
                             [**2199-6-28**]  04:27 PM
                             [**2199-6-28**]  06:33 PM
                             [**2199-6-28**]  11:00 PM
                             [**2199-6-29**]  05:23 AM
                             [**2199-6-29**]  05:32 AM
   WBC
   10.2
   10.0
   7.9
   Hct
   34.9
   13.9
   29.6
   29.5
   23.6
   24.9
   27.8
   32.2
   Plt
   116
   107
   107
   Cr
   1.5
   1.2
   1.1
   TCO2
   30
   30
   Glucose
   129
   138
   114
   Other labs: PT / PTT / INR:15.0/26.1/1.3, Differential-Neuts:55.8 %,
   Lymph:31.9 %, Mono:6.8 %, Eos:4.9 %, Lactic Acid:1.5 mmol/L, Ca++:7.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 DELIRIUM / CONFUSION
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 RETROPERITONEAL BLEED (RP BLEED) , PROCEDURE-RELATED
 ANXIETY
 ATRIAL FIBRILLATION (AFIB)
   76yo F w/ hx of CAD, s/p prior MI and PCI, PVD, s/p CEA and left leg
   PTA and paroxysmal Afib dating back to [**2191**] presenting today s/p PVI
   for afib c/b R inguinal and thigh hematoma
   # Hematoma, R groin/thigh- complication from PVI procedure. Likely
   caused from elevated INR and required 5F arterial line. CT shows
   hematoma is contained within the groin. U/S showed ? fistula. Exam
   worsened with larger hematoma and tense. Most recent INR 1.5 after 5U
   FFP. Pt received 3U pRBC total
   - NPO, plan for OR today for evacuation
   - appreciate vascular recs
   - checking Hct and coags q6h
   - f/u final CT read
   - cont to hold home HCTZ 25 and Diovan 80 given hypotension
   - will need to get additional PIV or access. Currently only 1 PIV
   .
   # Coronaries- known CAD w/ multiple MI and prior hx of angioplasty and
   stenting. Currently pt denies CP, and EKG was unchanged prior/post
   procedure. Do not suspect ACS or demand.
   - hold Metop given BP
   - ASA 162 in AM
   - cont to hold diovan
   .
   # Pump- LVEF 60%. no significant valve disease. Euvolemic.
   - will monitor volume status given blood products, lasix prn
   .
   # Rhythm- h/o atrial fibrillation, s/p DC cardioversions, the last in
   [**4-25**]. Now in NSR s/p PVI. Continue to moniter on tele
   - will hold BB for now given hypotension, can give IV for rate control
   if needed
   - f/u EP recs
   .
   # HTN- BP have remained low.
   - hold anti-HTNsives for now, restart if stable.
   # Delirium/ [**Name (NI) 6603**] Pt confused and delirius overnight. Requiring
   total of 11mg haldol and zyprexa. Also required restraints.  Pt still
   disoriented this AM.
   - check ECG to check QT
   - haldol 5mg IV prn and/or zyprexa
   - remove restraints as causing more agitation
   - consider 1:1 sitter
   .
   # PVD- s/p left leg stenting with subsequent thrombotic occlusion
   requiring ? thrombectomy/PTA - current pulses in feet doplerable
   - continue to moniter
   # CRI ?baseline 1.3- likely near baseline will continue to monitor Cr
   1.4. yesterday. Awaiting AM labs
   -          cont to trend Cr
   - avoid nephrotoxins and renally dose meds
   .
   # Neuropathy of b/l feet- stable, sensation is unchanged currently.
   # Hx of GIB/diverticulosis- currently no reason to suspect GIB, will
   moniter Hcts and guiac stools
   .
   FEN: No IVF, replete electrolytes, NPO for procedure
   Prophylaxis: holding SQH, ppi
   Access: PIV (will need additional access)
   Code: presumed FULL
   Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-6-26**] 10:36 PM
   Arterial Line - [**2199-6-28**] 03:00 PM
   20 Gauge - [**2199-6-28**] 04:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-06-30 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIOVERSION/DEFIBRILLATION - At [**2199-6-29**] 09:35 AM
   time out procedure performed precardioversion
 EKG - At [**2199-6-29**] 02:06 PM
 EKG - At [**2199-6-29**] 02:08 PM
 EKG - At [**2199-6-29**] 02:14 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2199-6-29**] 02:26 PM
 BLOOD CULTURED - At [**2199-6-30**] 12:00 AM
 ARTERIAL LINE - STOP [**2199-6-30**] 05:00 AM
   started by anesthesia MD in OR
 FEVER - 101.3
F - [**2199-6-30**] 12:00 AM
   - While Dr. [**Last Name (STitle) **] was rounding pt had narrow complex tachycardia
   and got DCCV --> asystolic --> a few seconds of CPR + 1mg atropine -->
   NSR for an hour or two.
   - Around 11am pt's HR 150-160s EKG c/w AVNRT tried Adenosine 6mg x1 w/o
   success --> DCCV rate then changed to Afib w/ RVR gave Amio 150mg IV x1
   --> DCCV and converted to NSR.
   - Then around 5pm pt went into 190s --> DCCV --> remained NSR 70-90s
   - Around 9pm back into Afib with ventricular rate 100-110s.
   - Tried lopressor 5 IV x1
   - EP: goal stop propofol -> stop neo -> extubate -> Amio
   - Propofol stopped, on fentanyl/midaz, Neo stopped around 9pm
   - Vasc recs: cont serial exams
   - Hct stable 4pm 33.2 and INR 1.2, at 10pm stable 30.8 and INR 1.2
   - At MN pt developed T101.3 -> sent blood cx (only x1), tylenol 650x1
   - At 1am  pt brady'ed to 60s and then had 3sec pause while awake and
   agitated, and MAP also decr to 55 (BP 81/44). Restarted Neo back up
   - Pt transitioned to CPAP doing well
   - at 6am stopped Neo
   - lost A-line (poor waveform, not drawing blood)
   - pt had increased secretions -> sent off sputum sample (since febrile)
   - UOP still 20-25cc/hr
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   patient believe
   Last dose of Antibiotics:
   Vancomycin - [**2199-6-28**] 04:00 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Adenosine - [**2199-6-29**] 02:12 PM
   Metoprolol - [**2199-6-29**] 09:40 PM
   Fentanyl - [**2199-6-30**] 03:52 AM
   Lorazepam (Ativan) - [**2199-6-30**] 04:45 AM
   Morphine Sulfate - [**2199-6-30**] 06:20 AM
   Midazolam (Versed) - [**2199-6-30**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-6-30**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.7
   HR: 71 (56 - 185) bpm
   BP: 95/52(60) {69/45(56) - 158/106(114)} mmHg
   RR: 20 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.8 kg (admission): 94.8 kg
             Total In:
                                                                  1,756 mL
                                                                    553 mL
   PO:
             TF:
   IVF:
                                                                  1,448 mL
                                                                    503 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  1,165 mL
                                                                    418 mL
   Urine:
                                                                    960 mL
                                                                    233 mL
   NG:
   Stool:
   Drains:
                                                                    205 mL
                                                                    185 mL
   Balance:
                                                                    591 mL
                                                                    135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 395 (395 - 672) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.46/34/132/25/1
   Ve: 8 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General: pleasant, in pain
   HEENT: NC/AT, anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: intubated, ventilated sounds, Clear anteriorly
   CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: +BS NT/ND, soft
   Ext: no c/c/e, pulses: +dopplers at PT and DP pulses bilaterally; R
   groin hematoma about 4 in. wider from darcation post-procedure. Firm
   and tender to touch. Main area of hematoma no longer firm
   Neuro: AOx3, sensation intact at LE and [**5-21**] motor at LE
   Labs / Radiology
   116 K/uL
   11.1 g/dL
   149 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.4 mEq/L
   25 mg/dL
   106 mEq/L
   140 mEq/L
   32.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2199-6-28**]  06:33 PM
                             [**2199-6-28**]  11:00 PM
                             [**2199-6-29**]  05:23 AM
                             [**2199-6-29**]  05:32 AM
                             [**2199-6-29**]  11:32 AM
                             [**2199-6-29**]  03:48 PM
                             [**2199-6-29**]  06:53 PM
                             [**2199-6-29**]  10:19 PM
                             [**2199-6-29**]  10:24 PM
                             [**2199-6-30**]  04:58 AM
   WBC
   7.9
   9.4
   Hct
   24.9
   27.8
   32.2
   32.1
   33.2
   30.8
   32.7
   Plt
   107
   116
   Cr
   1.1
   1.1
   TCO2
   30
   20
   25
   Glucose
   114
   149
   Other labs: PT / PTT / INR:13.4/24.8/1.1, Differential-Neuts:55.8 %,
   Lymph:31.9 %, Mono:6.8 %, Eos:4.9 %, Lactic Acid:1.5 mmol/L, Ca++:7.5
   mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 DELIRIUM / CONFUSION
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 RETROPERITONEAL BLEED (RP BLEED) , PROCEDURE-RELATED
 ANXIETY
 ATRIAL FIBRILLATION (AFIB)
   76yo F w/ hx of CAD, s/p prior MI and PCI, PVD, s/p CEA and left leg
   PTA and paroxysmal Afib dating back to [**2191**] presenting today s/p PVI
   for afib c/b R inguinal and thigh hematoma
   # Hematoma, R groin/thigh- complication from PVI procedure. Likely
   caused from elevated INR and required 5F arterial line. CT shows
   hematoma is contained within the groin.  Now evacuated and
   pseudoaneursym repaired. Hct dropped from 34.9 to 29 yesterday. Now
   improved at 32.2.
   - will check Hct and INR q8 now
   - cont to hold home HCTZ 25 and Diovan 80 given hypotension
   - f/u vascular recs
   # Rhythm- h/o atrial fibrillation, s/p DC cardioversions, the last in
   [**4-25**]. Now in NSR s/p PVI.  This AM pt went into a narrow complex
   tachycardia to 150s, EP cardioverted and required a couple chest
   compressions.
   - goal is to have pt extubated and start amio gtt
   - if pt goes back into RVR will try electrical cardioversion again
   - moniter on tele
   # Coronaries- known CAD w/ multiple MI and prior hx of angioplasty and
   stenting. Currently pt denies CP, and EKG was unchanged prior/post
   procedure. Do not suspect ACS or demand.
   - hold Metop given BP
   - ASA 162 in AM
   - cont to hold diovan
   .
   # Pump- LVEF 60%. no significant valve disease. Euvolemic.
   - will monitor volume status given blood products, lasix prn
   .
   # HTN- BP have remained low.
   - hold anti-HTNsives for now, restart if stable.
   #  Respiratory status- currently on AC. Currently on propofol.
   - will d/c propofol
   - will use versed and fentanyl boluses
   - goal is to wean sedation and to extubate today as long as rhythm
   remains stable
   # Delirium/ [**Name (NI) 6603**] Pt confused and delirius . Requiring total of 11mg
   haldol and zyprexa the night before. Also required restraints.  Pt
   still disoriented this AM.
   - check ECG to check QT
   - haldol 5mg IV prn and/or zyprexa
   - remove restraints as causing more agitation
   - consider 1:1 sitter
   .
   # PVD- s/p left leg stenting with subsequent thrombotic occlusion
   requiring ? thrombectomy/PTA - current pulses in feet doplerable
   - continue to moniter
   # CRI ?baseline 1.3- likely near baseline will continue to monitor Cr
   1.4. yesterday. Awaiting AM labs
   -          cont to trend Cr
   - avoid nephrotoxins and renally dose meds
   .
   # Neuropathy of b/l feet- stable, sensation is unchanged currently.
   # Hx of GIB/diverticulosis- currently no reason to suspect GIB, will
   moniter Hcts and guiac stools
   .
   FEN: No IVF, replete electrolytes, NPO for procedure
   Prophylaxis: holding SQH, ppi
   Access: PIV (will need additional access)
   Code: presumed FULL
   Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-6-26**] 10:36 PM
   20 Gauge - [**2199-6-28**] 04:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-07-01 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2199-6-30**] 10:05 AM
 EKG - At [**2199-7-1**] 04:25 AM
   --Extubated without any issues
   --CXR: New bibasilar opacitiies, new L sided effusion, fluid overload.
   Started levoflox 250 mg daily (renally dosed) for empiric tx of
   aspiration pna.
   --Gave lasix 40 mg IV x 1 given e/o fluid overload on CXR
   --Vasc [**Doctor First Name **] said ok to start IV heparin tomorrow
   --MN I/O check:-1.1 Liters
   --PM Hct:29.8 (32.7)
   --Began digoxin load per EP. Gave 0.5 mg PO x 1 at MN
   --Tachy to the 120-130's. Gave 5mg IV lopressor + 25mg PO lopressor,
   then another dose of 5mg IV lopressor. Heart rate <110
   --Lost all peripheral access
   --Placing central line
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   patient believe
   Last dose of Antibiotics:
   Vancomycin - [**2199-6-28**] 04:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2199-6-30**] 07:20 AM
   Midazolam (Versed) - [**2199-6-30**] 07:25 AM
   Morphine Sulfate - [**2199-6-30**] 08:20 AM
   Furosemide (Lasix) - [**2199-6-30**] 07:30 PM
   Metoprolol - [**2199-7-1**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-1**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.3
   HR: 114 (66 - 125) bpm
   BP: 130/78(92) {81/44(53) - 144/118(123)} mmHg
   RR: 19 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 98.3 kg (admission): 94.8 kg
             Total In:
                                                                    929 mL
                                                                    132 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    759 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,058 mL
                                                                    705 mL
   Urine:
                                                                  1,773 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
                                                                    285 mL
   Balance:
                                                                 -1,129 mL
                                                                   -573 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 326 (326 - 400) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 2%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 8.4 L/min
   Physical Examination
   General: pleasant, in pain
   HEENT: NC/AT, anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: coarse bs anteriorly.
   CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: +BS NT/ND, soft
   Ext: no c/c/e, pulses: +dopplers at PT and DP pulses bilaterally; R
   groin hematoma about 4 in. wider from darcation post-procedure. Firm
   and tender to touch. Main area of hematoma no longer firm
   Neuro: AOx3, sensation intact at LE and [**5-21**] motor at LE
   Labs / Radiology
   148 K/uL
   9.8 g/dL
   136 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.8 mEq/L
   23 mg/dL
   104 mEq/L
   139 mEq/L
   27.9 %
   7.5 K/uL
        [image002.jpg]
                             [**2199-6-29**]  05:23 AM
                             [**2199-6-29**]  05:32 AM
                             [**2199-6-29**]  11:32 AM
                             [**2199-6-29**]  03:48 PM
                             [**2199-6-29**]  06:53 PM
                             [**2199-6-29**]  10:19 PM
                             [**2199-6-29**]  10:24 PM
                             [**2199-6-30**]  04:58 AM
                             [**2199-6-30**]  04:22 PM
                             [**2199-7-1**]  04:06 AM
   WBC
   7.9
   9.4
   7.5
   Hct
   32.2
   32.1
   33.2
   30.8
   32.7
   29.8
   27.9
   Plt
   107
   116
   148
   Cr
   1.1
   1.1
   1.1
   TCO2
   30
   20
   25
   Glucose
   114
   149
   136
   Other labs: PT / PTT / INR:13.3/23.4/1.1, Differential-Neuts:55.8 %,
   Lymph:31.9 %, Mono:6.8 %, Eos:4.9 %, Lactic Acid:1.5 mmol/L, Ca++:7.5
   mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 OLIGURIA/ANURIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 DELIRIUM / CONFUSION
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 RETROPERITONEAL BLEED (RP BLEED) , PROCEDURE-RELATED
 ANXIETY
 ATRIAL FIBRILLATION (AFIB)
   76yo F w/ hx of CAD, s/p prior MI and PCI, PVD, s/p CEA and left leg
   PTA and paroxysmal Afib dating back to [**2191**] presenting today s/p PVI
   for afib c/b R inguinal and thigh hematoma
   # Hematoma, R groin/thigh- complication from PVI procedure. Likely
   caused from elevated INR and required 5F arterial line. CT shows
   hematoma is contained within the groin.  Now evacuated and
   pseudoaneursym repaired. Hct dropped to 27.8. Still draining from wound
   site.
   - will check Hct and INR q12
   - cont to hold home HCTZ 25 and Diovan 80 given hypotension
   - f/u vascular recs
   - active T&S
   # Rhythm- h/o atrial fibrillation, s/p DC cardioversions, the on  [**4-25**].
   Now in NSR s/p PVI.  This yesterday AM pt went into a narrow complex
   tachycardia to 150s, EP cardioverted and required a couple chest
   compressions. Pt was in AVNRT -> Afib -> NSR now after 2 more DCCV and
   finished amio gtt. Pt started on dig 0.5x2.  Started 0.25 in AM.
   - cont dig 0.25mg
   - cont lopressor 25mg [**Hospital1 **], plan to titrate as needed
   # Coronaries- known CAD w/ multiple MI and prior hx of angioplasty and
   stenting. Currently pt denies CP, and EKG was unchanged prior/post
   procedure. Do not suspect ACS or demand.
   - ASA 162 in AM
   - cont to hold diovan
   .
   # Pump- LVEF 60%. no significant valve disease. Appeared volume
   overloaded on CXR. Gave lasix, neg 1L.
   -          will monitor volume status given blood products, lasix prn
   -          - repeat CXR
   #. Pneumonia: Question aspiration as opacity seen on CXR. Started on
   levo 250mg (renally dosed). No WBC, but pt was febrile yesterday.
   -          cont levo for aspiration
   -          if worsens consider broadening coverage for VAP
   .
   # HTN- BP have remained low.
   - hold anti-HTNsives for now, restart if stable.
   #  Respiratory status- transitioned to CPAP overnight, now extubated
   - continue to monitor
   # Delirium/ Anxiety- now that pt no longer intubated will likely
   require anxiety meds for sundowning. No episodes overnight given
   ativan.
   - cont ativan prn
   .
   # PVD- s/p left leg stenting with subsequent thrombotic occlusion
   requiring ? thrombectomy/PTA - current pulses in feet doplerable
   - continue to moniter
   # CRI ?baseline 1.3- pt
s Cr stable currently 1.1
   .
   # Neuropathy of b/l feet- stable, sensation is unchanged currently.
   # Hx of GIB/diverticulosis- currently no reason to suspect GIB, will
   moniter Hcts and guiac stools
   .
   FEN: No IVF, replete electrolytes, cardiac/low salt
   Prophylaxis: holding SQH, ppi
   Access: PIV (will need additional access)
   Code: presumed FULL
   Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-7-1**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-07-02 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2199-7-1**] 09:00 AM
 ULTRASOUND - At [**2199-7-1**] 05:00 PM
   right leg
   [**7-1**]
   - RIJ placed, CXR showed proper position
   - EP plan: Rate CTRL with BB and digoxin; Avoid anticoagulation;
   Vascular follow-up; Ambulate once drain is out; head CT to r/o
   bleed/stroke as cause of mental status; R LE venous ultrasound to r/o
   dvt
   - thrombus found in posterior tibial vein on right
   - CT-head: No acute intracranial abnormality.
   - PM Hct: 29.8 (from 27.9)
   - PM Lytes: Na 140, K 3.7, BUN 20, Cre 0.9, Mg 1.7, P 1.4
   - Pt HR 90-100, titrated metoprolol to 37.5mg q8
   ( [**6-30**]
   --Extubated without any issues
   --CXR: New bibasilar opacitiies, new L sided effusion, fluid overload.
   Started levoflox 250 mg daily (renally dosed) for empiric tx of
   aspiration pna.
   --Gave lasix 40 mg IV x 1 given e/o fluid overload on CXR
   --Vasc [**Doctor First Name **] said ok to start IV heparin tomorrow
   --MN I/O check:-1.1 Liters
   --PM Hct:29.8 (32.7)
   --Began digoxin load per EP. Gave 0.5 mg PO x 1 at MN
   --Tachy to the 120-130's. Gave 5mg IV lopressor + 25mg PO lopressor,
   then another dose of 5mg IV lopressor. Heart rate <110
   --Lost all peripheral access
   --Placing central line)
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   patient believe
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2199-7-1**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-2**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 99 (92 - 122) bpm
   BP: 130/67(83) {114/56(73) - 153/94(105)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 96.1 kg (admission): 94.8 kg
   Height: 69 Inch
             Total In:
                                                                  1,021 mL
                                                                     69 mL
   PO:
                                                                    740 mL
             TF:
   IVF:
                                                                    281 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,405 mL
                                                                    590 mL
   Urine:
                                                                  2,155 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
                                                                    100 mL
   Balance:
                                                                 -1,384 mL
                                                                   -521 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General: pleasant, in pain
   HEENT: NC/AT, anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: coarse bs anteriorly.
   CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: +BS NT/ND, soft
   Ext: no c/c/e, pulses: +dopplers at PT and DP pulses bilaterally; R
   groin hematoma about 4 in. wider from darcation post-procedure. Firm
   and tender to touch. Main area of hematoma no longer firm
   Neuro: AOx3, sensation intact at LE and [**5-21**] motor at LE
   Labs / Radiology
   174 K/uL
   10.1 g/dL
   159 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.2 mEq/L
   21 mg/dL
   106 mEq/L
   139 mEq/L
   29.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2199-6-29**]  11:32 AM
                             [**2199-6-29**]  03:48 PM
                             [**2199-6-29**]  06:53 PM
                             [**2199-6-29**]  10:19 PM
                             [**2199-6-29**]  10:24 PM
                             [**2199-6-30**]  04:58 AM
                             [**2199-6-30**]  04:22 PM
                             [**2199-7-1**]  04:06 AM
                             [**2199-7-1**]  06:11 PM
                             [**2199-7-2**]  04:00 AM
   WBC
   9.4
   7.5
   7.0
   Hct
   32.1
   33.2
   30.8
   32.7
   29.8
   27.9
   29.8
   29.4
   Plt
   116
   148
   174
   Cr
   1.1
   1.1
   0.9
   0.9
   TCO2
   20
   25
   Glucose
   149
   136
   159
   Other labs: PT / PTT / INR:12.2/22.9/1.0, Differential-Neuts:55.8 %,
   Lymph:31.9 %, Mono:6.8 %, Eos:4.9 %, Lactic Acid:1.5 mmol/L, Ca++:7.8
   mg/dL, Mg++:2.6 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 OLIGURIA/ANURIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 DELIRIUM / CONFUSION
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 RETROPERITONEAL BLEED (RP BLEED) , PROCEDURE-RELATED
 ANXIETY
 ATRIAL FIBRILLATION (AFIB)
   76yo F w/ hx of CAD, s/p prior MI and PCI, PVD, s/p CEA and left leg
   PTA and paroxysmal Afib dating back to [**2191**] presenting today s/p PVI
   for afib c/b R inguinal and thigh hematoma
   # Hematoma, R groin/thigh- complication from PVI procedure. Likely
   caused from elevated INR and required 5F arterial line. CT showed
   hematoma contained within the groin.  Now evacuated and pseudoaneursym
   repaired by Vasc. Hct dropped to 27.8 from 32.7 24 hrs ago. Still
   draining from wound site.
   - will check Hct and INR q12
   - cont to hold home HCTZ 25 and Diovan 80 given hypotension
   - f/u vascular recs
   - active T&S
   -placed central line
   # Rhythm- h/o atrial fibrillation, s/p DC cardioversions and amio load
   two days ago. She is being loaded on digoxin. Notably, she went back
   into Afib with RVR in the 120
s-130
s which responded to IV lop 5mg x 1
   and PO lop 25 mg x 1.
   - now that load complete with start dig 0.125 mcg daily in am
   - cont lopressor 25mg [**Hospital1 **], plan to titrate as needed and as BP
   tolerates
   .
   # Coronaries- known CAD w/ multiple MI and prior hx of angioplasty and
   stenting. Currently pt denies CP, and EKG was unchanged prior/post
   procedure. Do not suspect ACS or demand.
   - ASA 162 in AM
   - cont to hold diovan
   .
   # Pump- LVEF 60%. no significant valve disease. Appeared volume
   overloaded on CXR. Gave lasix 40mg IV, neg 1L.
   .- goal -500 to 1000 cc neg
   .
   #. ? Asp Pneumonia: Question aspiration as opacity seen on CXR. Started
   on levo 250mg (renally dosed). No WBC, but pt was febrile yesterday.
   -          cont levo for aspiration for total 7d course
   -          if worsens consider broadening coverage for VAP .
   # HTN- BP have remained low.
   - hold anti-HTNsives for now, restart if stable.
   .
   #  Respiratory status- resp status stable since extubation
   - continue to monitor
   # Delirium/ Anxiety- now that pt no longer intubated will likely
   require anxiety meds for sundowning. Has responded well to ativan
   .
   # PVD- s/p left leg stenting with subsequent thrombotic occlusion
   requiring ? thrombectomy/PTA - current pulses in feet doplerable
   - continue to moniter
   # CRI ?baseline 1.3- pt
s Cr stable currently 1.1
   .
   # Neuropathy of b/l feet- stable, sensation is unchanged currently.
   # Hx of GIB/diverticulosis- currently no reason to suspect GIB, will
   moniter Hcts and guiac stools
   .
   FEN: No IVF, replete electrolytes, cardiac/low salt
   Prophylaxis: holding SQH, ppi
   Access: RIJ (placed [**2199-7-1**])
   Code:  FULL
   Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2199-7-1**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
     14. Lorazepam 1 mg IV ONCE
   3. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular
   16. Metoprolol Tartrate 37.5 mg PO Q8
     17. Morphine Sulfate 1-10 mg IV Q2H:PRN
   5. Acetaminophen 650 mg PO Q6H:PRN
     6. Bisacodyl 10 mg PO/PR DAILY:PRN constipation
     7. Cepacol (Menthol) 1 LOZ PO PRN cough/sore throat
     8. Dextromethorphan-Guaifenesin (Sugar Free) 5 mL PO Q6H:PRN cough
     9. Digoxin 0.125 mg PO DAILY
   22. Senna 1 TAB PO BID:PRN constipation
   10. Docusate Sodium 100 mg PO BID
   11. Levofloxacin 250 mg PO Q24H
   day1=[**6-30**]  Order date: [**7-1**] @ 1022
   13. Lorazepam 0.5-1 mg PO Q4H:PRN agitation, insomnia  Order date:
   [**6-30**] @ [**2116**]